US04307233
A solution of diphenyldiazomethane (116.5 g) in acetonitrile (800 cc) is added dropwise, in the course of 45 minutes, at a temperature of between 25° and 30° C., to a solution of 7-tert.-butyoxycarbonylamino-2-carboxy-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (188.6 g) in acetonitrile (2,100 cc). Thr reaction mixture is stirred for 16 hours at 22° C. and is then concentrated to dryness under reduced pressure (20 mm Hg) at 40° C. The residue is redissolved in ethyl acetate (2 liters) and the solution is washed with 2 N hydrochloric acid (700 cc) and then with a saturated aqueous sodium bicarbonate solution (70 cc) and a saturated aqueous sodium chloride solution (700 cc). The solution is dried over sodium sulphate, treated with decolorising charcoal, filtered, and then concentrated to dryness under reduced pressure (20 mm Hg) at 40° C. The residue is dissolved in boiling ethyl acetate (600 cc). Cyclohexane (1 liter) is added, and the mixture is heated to the reflux temperature and then allowed to cool. The crystals which have appeared are filtered off, washed with diethyl ether (3×250 cc) and then dried. 2-Benzhydryloxycarbonyl-7-tert.-butoxycarbonylamino-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene (191 g) is obtained in the form of white crystals (m.p.=179° C.). On concentrating the mother liquor to 500 cc, a second fraction of product (32.6 g, m.p.=178° C.) is obtained.

reactant | diphenyldiazomethane | 116.5 g | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
reactant | 7-tert.-butyoxycarbonylamino-2-carboxy-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 188.6 g | C(C)(C)(C)OC(=O)NC1C2SCC(=C(N2C1=O)C(=O)O)C | C13H18N2O5S
reactant | Thr | N[C@@H]([C@H](O)C)C(=O)O | C4H9NO3
solvent | acetonitrile | 800 cc | C(C)#N | C2H3N
solvent | acetonitrile | 2,100 cc | C(C)#N | C2H3N
product | 2-Benzhydryloxycarbonyl-7-tert.-butoxycarbonylamino-3-methyl-8-oxo-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene | 191 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)OC(=O)C=1N2C(C(C2SCC1C)NC(=O)OC(C)(C)C)=O | C26H28N2O5S
